US04690931
1. 2-(4-Benzylpiperidino)-4'-chloroacetophenone
A mixture of 23.35 g (0.1 mol) of 2-bromo-4'-chloroacetophenone, 17.5 g (0.1 mol) of 4-benzylpiperidine and 13.8 g (0.1 mol) of potassium carbonate in 250 ml of anhydrous ethanol is heated under reflux for 3 hours and then left to stand overnight. The inorganic materials are filtered off and washed with ethanol and the filtrate is evaporated in vacuo. A brown oily residue remains, which is triturated with diethyl ether. A solid forms and is filtered off and then washed with diethyl ether. The filtrate is collected and the solid is triturated with a mixture of dilute sodium hydroxide solution and ethyl acetate. The organic phase is separated off, washed, dried and combined with the previously obtained diethyl ether filtrate. After evaporation of the mixture in vacuo, an oil remains, which crystallises on standing and is used as such.

reactant | 2-bromo-4'-chloroacetophenone | 0.1 mol, 23.35 g | BrCC(=O)C1=CC=C(C=C1)Cl | C8H6BrClO
reactant | 4-benzylpiperidine | 0.1 mol, 17.5 g | C(C1=CC=CC=C1)C1CCNCC1 | C12H17N
reactant | potassium carbonate | 0.1 mol, 13.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | 2-(4-Benzylpiperidino)-4'-chloroacetophenone | C(C1=CC=CC=C1)C1CCN(CC1)CC(=O)C1=CC=C(C=C1)Cl | C20H22ClNO
